US09382226B2
Step D. 5-methoxy-1-methyl-2-[5-(1H-pyrazol-4-yl)pyridin-3-yl]-1H-benzimidazole (378)
To a solution of 2-(5-bromo-pyridin-3-yl)-5-methoxy-1-methyl-1H-benzoimidazole (0.15 g, 0.00047 mol) in ethanol toluene water (6 ml, 3 ml, 1.5 ml, respectively) mixture in a sealed tube was added 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (0.18 g, 0.000942 mol) and Na2CO3 (0.14 g, 0.0014 mol) and argon was purged for 15 min. Then Pd (PPh3)4 (0.027 g, 0.000023 mol) was added and heated at 100° C. for 24 h. The solvent was evaporated and the resulting residue was added water. The aqueous layer was extracted with ethyl acetate (3×20 ml). The combined organic layers were washed with brine dried over Na2SO4 and concentrated under vacuum to afford the crude compound which was purified by column chromatography to obtain title compound 5-methoxy-1-methyl-2-[5-(1H-pyrazol-4-yl)pyridin-3-yl]-1H-benzimidazole as an off white solid. 1H NMR (400 MHz, DMSO-d6), δ: 13.11 (s, 1H), 9.01 (s, 1H), 8.79 (s, 1H), 8.44 (s, 1H), 8.38 (s, 1H), 8.13 (s, 1H), 7.54 (d, J=8.8 Hz, 1H), 7.22 (s, 1H), 6.95 (d, J=8.8 Hz, 1H), 3.89 (s, 3H), 3.79 (s, 3H). MS (M+1): 306.1, Purity 99.0%.

reactant | 2-(5-bromo-pyridin-3-yl)-5-methoxy-1-methyl-1H-benzoimidazole | 0.00047 mol, 0.15 g | BrC=1C=C(C=NC1)C1=NC2=C(N1C)C=CC(=C2)OC | C14H12BrN3O
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.000942 mol, 0.18 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | Na2CO3 | 0.0014 mol, 0.14 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol toluene water | O.C1(=CC=CC=C1)C.C(C)O
catalyst | Pd (PPh3)4 | 0.000023 mol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-methoxy-1-methyl-2-[5-(1H-pyrazol-4-yl)pyridin-3-yl]-1H-benzimidazole | COC1=CC2=C(N(C(=N2)C=2C=NC=C(C2)C=2C=NNC2)C)C=C1 | C17H15N5O
